US07893267B2
To a solution of 70 mg (0.2 mmol) of 2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid in DMF (2 mL) was added 100 mg (0.26 mmol) of HBTU and DIEA (0.3 mL). The mixture was stirred for 5 min, then 100 mg (0.7 mmol) of (4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylamine was added. The resulting reaction mixture was heated at 80° C. for 1.5 h. After usual workup, the residue was purified by column chromatography eluting with DCM/EtOAc (v/v=11:1) to afford 12 mg (13%) of isoquinoline-3-carboxylic acid [4-(4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide. LCMS: 452 (M+1)+.

reactant | 2-[(isoquinoline-3-carbonyl)-amino]-3H-benzoimidazole-4-carboxylic acid | 0.2 mmol, 70 mg | C1=NC(=CC2=CC=CC=C12)C(=O)NC=1NC2=C(N1)C=CC=C2C(=O)O | C18H12N4O3
reactant | HBTU | 0.26 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylamine | N1C(=NC2=C1CCCC2)N | C7H11N3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | isoquinoline-3-carboxylic acid [4-(4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 12 mg, 13% | N1C(=NC2=C1CCCC2)NC(=O)C2=CC=CC=1NC(=NC12)NC(=O)C=1N=CC2=CC=CC=C2C1 | C25H21N7O2
